US08614206B2
To a solution of tert-butyl (±)-4-(4-amino-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)-2-methylpiperazine-1-carboxylate (300 mg, 0.83 mmol), 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid (294 mg, 0.83 mmol), HATU (410 mg, 1.08 mmol) in DMF (15 mL) was added TEA (2 mL). The mixture was stirred at 30° C. for 20 hours, poured into water (100 mL), and extracted with EtOAc (40 mL×3). The combined organic layers was washed with water (50 mL×2) and brine (30 mL×2), dried over Na2SO4, filtered, and concentrated under reduced pressure to afford a residue. The residue was purified by preparative HPLC to give tert-butyl (±)-4-(4-(5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxamido)-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)-2-methylpiperazine-1-carboxylate as white solid (190 mg, 33%). MS (ESI) m/z: 702 [M+H+].

reactant | tert-butyl (±)-4-(4-amino-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)-2-methylpiperazine-1-carboxylate | 0.83 mmol, 300 mg | NC=1C=NN(C1N1CC(N(CC1)C(=O)OC(C)(C)C)C)CC(F)(F)F | C15H24F3N5O2
reactant | 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid | 0.83 mmol, 294 mg | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)O | C15H14F2N2O4S
reactant | HATU | 1.08 mmol, 410 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | water | 100 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-butyl (±)-4-(4-(5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxamido)-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)-2-methylpiperazine-1-carboxylate | 190 mg, 33% | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)NC=1C=NN(C1N1CC(N(CC1)C(=O)OC(C)(C)C)C)CC(F)(F)F | C30H36F5N7O5S
